US06579879B2
To an ice-cold solution of 3-coumaranone (10 mmol, 1.34 g) in ether (20 mL) was added 4-fluoro-phenyl magnesium bromide (2 M in ether, 20 mmol, 10 mL) and the reaction stirred for 3.5 hours. The reaction was quenched with H2O (10 mL), the pH was adjusted to 7 with sufficient 10% HCl and extracted with ether (3×10 mL). The ether extract was collected, dried, filtered, and evaporated to dryness. The residue was purified by silica gel chromatography (eluent: hexanes) to obtain 4-fluorophenyl-benzofuran.

reactant | 3-coumaranone | 10 mmol, 1.34 g | O1CC(C2=CC=CC=C12)=O | C8H6O2
reactant | 4-fluoro-phenyl magnesium bromide | 20 mmol, 2 M, 10 mL | FC1=CC=C(C=C1)[Mg]Br
solvent | ether | 20 mL | CCOCC | C4H10O
product | 4-fluorophenyl-benzofuran | FC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C14H9FO
